US08003785B2
To a solution of 0.20 g (0.8 mmole) of 2-chloro-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-292) in 2 mL of dimethylformamide was added 0.53 g (1.6 mmole) of cesium carbonate, followed by 0.8 g (3.2 mole) of (2-iodo-ethoxy)-benzene. After stirring at 50 degrees overnight, the mixture was filtered and then concentrated under reduced pressure. Dichloromethane and saturated sodium carbonate were added. The mixture was extracted twice with dichloromethane. The combined organic layers were washed three times with sodium carbonate, three times with water, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to give 0.28 g of 2-chloro-7,7-difluoro-5-methyl-9-(2-phenoxy-ethyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-304) as an oil.

reactant | 2-chloro-7,7-difluoro-5-methyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.8 mmole, 0.20 g | ClC=1N=CC2=C(NCC(C(N2C)=O)(F)F)N1 | C8H7ClF2N4O
reactant | cesium carbonate | 1.6 mmole, 0.53 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (2-iodo-ethoxy)-benzene | 3.2 mole, 0.8 g | ICCOC1=CC=CC=C1 | C8H9IO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-chloro-7,7-difluoro-5-methyl-9-(2-phenoxy-ethyl)-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.28 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)CCOC2=CC=CC=C2)N1 | C16H15ClF2N4O2
